US09428511B2
To a solution of 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide (170 mg, 0.617 mmol) and (R)-tert-butyl 4-amino-3,3-dimethylpiperidine-1-carboxylate (144 mg, 0.633 mmol) in DMF (1543 μl) was added DIEA (237 μl, 1.358 mmol). The reaction was heated at 90° C. for 2 hours. After cooling to room temperature, the reaction mixture was partitioned between water and ethyl acetate (100 ml). The ethyl acetate layer was washed with water (3×100 ml), dried with sodium sulfate, filtered, and concentrated under reduced pressure. The crude solid was purified via flash chromatography (ISCO silica gel column, 0-10% MeOH-DCM) to afford (R)-tert-butyl 4-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-3,3-dimethylpiperidine-1-carboxylate (255 mg, 0.546 mmol, 88% yield) as a faint yellow solid. ESI-MS (analytical LCMS Method A): m/z 467.0 ([M+H]+). HPLC (analytical HPLC Method A) Rt: 3.413 min.

reactant | 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide | 0.617 mmol, 170 mg | BrC=1N=C2N(N=CC(=C2Cl)C(=O)N)C1 | C7H4BrClN4O
reactant | (R)-tert-butyl 4-amino-3,3-dimethylpiperidine-1-carboxylate | 0.633 mmol, 144 mg | N[C@H]1C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C12H24N2O2
reactant | DIEA | 1.358 mmol, 237 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1543 μl | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 4-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-3,3-dimethylpiperidine-1-carboxylate | 0.546 mmol, 255 mg, 88% yield | BrC=1N=C2N(N=CC(=C2N[C@H]2C(CN(CC2)C(=O)OC(C)(C)C)(C)C)C(N)=O)C1 | C19H27BrN6O3
